data/mechanisms/records/IMS8-EQ8.1c.json
{"mechanism_id": "IMS8-EQ8.1c", "species": [{"species_id": "methallyl_cation", "mapped_smiles": "[CH2:2]=[CH:3][CH+:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclopropenyl_cation", "mapped_smiles": "[CH+:2]1[CH:3]=[CH:4]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methane", "mapped_smiles": "[CH4:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methallyl_cation"]}, {"state_id": "state_products", "species_ids": ["cyclopropenyl_cation", "methane"]}], "steps": [{"step_id": "step_methane_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_methane_loss", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.7, "curator_note": "adduct corrected to null (convention G): the species undergoing this reaction is an EVEN-ELECTRON cation (charge +1, radical_electrons 0) - a fragment/secondary-fragmentation precursor - NOT the [M]+. radical molecular ion. Eq 8.1, consecutive dissociation of the top pathway: the C4H7+ (1-methylallyl) cation, arrow labeled 'rH' (rate 2.5), loses neutral CH4 to give C3H3+ (dHf/IE 11.1(6.6)) + CH4 (dHf -0.8). This is the C4H7+ -> C3H3+ + CH4 step the running text on this page calls out explicitly. Book draws 0 curved arcs (net summary equation). Mechanism reconstructed for electron balance: the methyl (C5) departs as CH4, taking a hydrogen from the vinyl terminus (C2), and the three surviving carbons close to the aromatic cyclopropenyl cation. Two curved (2-electron) arrows carry the heavy-atom skeleton: (1) the C2=C3 pi electrons shift to form the new C3=C4 pi bond, (2) the C4-C5 sigma bond's electrons close the C2-C4 ring bond while methyl leaves. The accompanying H transfer C2->C5 (which completes CH4) cannot be atom-mapped -- RDKit folds mapped explicit H into implicit valence -- so it appears only as the H-count change written into the SMILES (C2: =CH2 -> ring =CH; C5: CH3 -> CH4) and is not carried by an explicit arrow; the two encoded arrows already reproduce every heavy-atom bond-order change exactly. The charge relocates C4 -> C2 as drawn (aromatic cyclopropenyl cation)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C3H3", "species_id": "cyclopropenyl_cation", "step_id": "step_methane_loss", "observed_mz": 39.0229, "relative_intensity": 0.35, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
